US04508906
To a solution of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate (0.8 g) in ethanol (25 ml), chilled in an ice bath and under nitrogen, ammonia is flowed over for about 10 minutes while stirring. Reaction is allowed to warm to R.T. The reaction is again chilled and additional ammonia added for about 15 minutes. Reaction is allowed to rise to R.T. and stirring continued over night. Reaction is concentrated under vacuum to an oil. The oily concentrate is purified by prep. thin layer chromatography using ethyl acetate/hexane (1:1) to give ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-aminopentanoate (purity 93.7%, structure confirmed by MS).

reactant | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate | 0.8 g | FC(C1=CC=C(OC2=CC=C(OC(C=CC(=O)OCC)C)C=C2)C=C1)(F)F | C20H19F3O4
reactant | ammonia | N | H3N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-aminopentanoate | FC(C1=CC=C(OC2=CC=C(OC(C(CC(=O)OCC)N)C)C=C2)C=C1)(F)F | C20H22F3NO4
